US07858796B2
(4) Methyl 5-bromo-2,3-dihydro-1H-indole-7-carboxylate
1-(1,1-dimethylethyl) 7-methyl 5-bromo-2,3-dihydro-1H-indole-1,7-dicarboxylate (9 g, 25 mmol) was dissolved in trifluoroacetic acid (6 mL) and stirred at room temperature for 16 hours. Dichloromethane and sodium hydroxide solution (2 M) were added and the organic layer washed twice with sodium hydroxide solution until the aqueous layer pH>7. The organic layer was then concentrated in vacuo to give the title compound as a brown solid (6.5 g).

reactant | 1-(1,1-dimethylethyl) 7-methyl 5-bromo-2,3-dihydro-1H-indole-1,7-dicarboxylate | 25 mmol, 9 g | BrC=1C=C2CCN(C2=C(C1)C(=O)OC)C(=O)OC(C)(C)C | C15H18BrNO4
reactant | Dichloromethane | ClCCl | CH2Cl2
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Methyl 5-bromo-2,3-dihydro-1H-indole-7-carboxylate | 6.5 g | BrC=1C=C2CCNC2=C(C1)C(=O)OC | C10H10BrNO2
